US07923450B2
b) [4-(4-Chloro-3-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
A suspension of [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (39 mg, 0.15 mmol) and of crude 6-bromo-2-(4-chloro-3-trifluoromethyl-phenyl)-cyclohexanone (53 mg, 0.16 mmol) in ethanol (2 mL) was heated to reflux under an atmosphere of nitrogen for 2 days. After cooling to room temperature the solvent was evaporated under reduced pressure and the residue was purified by reversed preparative HPLC using acetonitril/water (0.1% formic acid) to yield the title compound (22 mg, 29%) as a yellow gum. MS ISP (m/e): 518.8/520.9 (100/36) [(M+H)+]. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.62 (s, 1H), 7.56 (s, 1H), 7.41 (d, 2H), 7.30 (s, 1H), 7.10 (d, 1H), 6.83-6.89 (m, 2H), 6.67 (d, 1H), 4.05 (m, 1H), 3.55 (s, 3H), 2.75 (m, 2H), 2.29 (s, 3H), 2.22 (m, 1H), 1.78-2.05 (m, 3H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.15 mmol, 39 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
reactant | 6-bromo-2-(4-chloro-3-trifluoromethyl-phenyl)-cyclohexanone | 0.16 mmol, 53 mg | BrC1CCCC(C1=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C13H11BrClF3O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | [4-(4-Chloro-3-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 22 mg, 29% | ClC1=C(C=C(C=C1)C1CCCC2=C1N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC)C(F)(F)F | C25H22ClF3N4OS
